US05004741
(1(2-(Ethylamino)-2-oxoethyl)-2,3-dihydro-5-phenyl-2-oxo-1H-1,4-benzodiazepin-3-yl)-carbamic acid phenylmethyl ester
The products of Example 134 was carried out using equivalent amounts of 1,3-dihydro-1-chlorocarbonylmethyl-3(phenylmethyloxycarbonyl)amino-5-phenyl-2H-1,4-benzodiazepin-2-one and ethylamine. The product was purified by chromatography on silica gel (hexane-ethyl acetate elution). The combined product fractions were evaporated to dryness in vacuo and crystallized to give the title compound which was dried at 65° : m.p. 149° C.

reactant | 1,3-dihydro-1-chlorocarbonylmethyl-3(phenylmethyloxycarbonyl)amino-5-phenyl-2H-1,4-benzodiazepin-2-one | ClC(=O)CN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)OCC2=CC=CC=C2)=O | C25H20ClN3O4
reactant | ethylamine | C(C)N | C2H7N
product | (1(2-(Ethylamino)-2-oxoethyl)-2,3-dihydro-5-phenyl-2-oxo-1H-1,4-benzodiazepin-3-yl)-carbamic acid phenylmethyl ester | C1(=CC=CC=C1)COC(NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(=O)NCC)=O)=O | C27H26N4O4
